US05622634
A thin film of organic palladium compound was formed on the substrate 1 that carries thereon the device electrodes 4 and 5 by applying an organic palladium solution prepared by dissolving an organic palladium compound formed from palladium acetate and amine into butylacetate to the substrate 1. Then, the substrate 1 was baked at 300° C. for 10 minutes in the atmosphere within an oven to decompose and oxide the organic palladium on the substrate 1 until a film 7 of PdO was formed there.

reactant | palladium | [Pd] | Pd
reactant | butylacetate | C(CCC)OC(C)=O | C6H12O2
product | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-] | InChI=1S/2C2H4O2.Pd/c2*1-2(3)4;/h2*1H3,(H,3,4);/q;;+2/p-2
